US08106064B2
4-Chloro-5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine:
To a stirred solution of p-methoxybenzyl alcohol (110 ml) in anhydrous DMF (50 ml) in a water bath under nitrogen atmosphere, was portionwise added 60% sodium hydride (4 g, 100 mmol). After complete reaction of sodium hydride, the mixture was cooled in an ice-water bath and 5-isopropyl-2,4,6-trichloropyrimidine (11.275 g, 50 mmol) was added. After 1 hr., the mixture was stirred for overnight at room temperature. The excess p-methoxybenzyl alcohol and DMF were distilled off in high vacuo and the residue was partitioned between ether and water. The ether layer was taken, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product as a colorless syrup. The crude product was purified by silica gel column chromatography (eluent, ether:hexanes (1:9)) to afford 17 g (79%) of a white solid. m.p. 69-70° C.; 1H NMR (200 MHz, CDCl3) δ 1.23 (6H, d, J=7.0 Hz), 3.42 (1H, m), 3.81 (3H, s), 3.82 (3H, s), 5.31 (2H, s), 5.35 (2H, s), 6.87-6.92 (4H, m), 7.30-7.43 (4H, m).

reactant | p-methoxybenzyl alcohol | 110 ml | COC=1C=CC(=CC1)CO | C8H10O2
reactant | sodium hydride | 100 mmol, 4 g | [H-].[Na+]
reactant | 5-isopropyl-2,4,6-trichloropyrimidine | 50 mmol, 11.275 g | C(C)(C)C=1C(=NC(=NC1Cl)Cl)Cl | C7H7Cl3N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine | 17 g, 79% | ClC1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C23H25ClN2O4
